US04138256
Tris-(β-cyanoethyl)-2-methoxyethyl-phosphonium iodide
135.2 g (0.7 mole) of tris-(2-cyanoethyl)-phosphine are dissolved, under nitrogen, in 500 ml of boiling acetonitrile and then 130.2 g (0.7 mole) of 1-iodo-2-methoxyethane are added. The mixture is refluxed for 12 hours. After rapid filtration of the hot solution and cooling, the reaction product crystallises out and is collected by suction filtration and dried in vacuo at 60° C.

reactant | tris-(2-cyanoethyl)-phosphine | 0.7 mole, 135.2 g | C(#N)CCP(CCC#N)CCC#N | C9H12N3P
reactant | 1-iodo-2-methoxyethane | 0.7 mole, 130.2 g | ICCOC | C3H7IO
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
product | Tris-(β-cyanoethyl)-2-methoxyethyl-phosphonium iodide | [I-].C(#N)CC[P+](CCOC)(CCC#N)CCC#N | InChI=1S/C12H19N3OP.HI/c1-16-8-12-17(9-2-5-13,10-3-6-14)11-4-7-15;/h2-4,8-12H2,1H3;1H/q+1;/p-1
